US06426345B1
A mixture of 2-bromomethyl-4-(3-methoxycarbonylphenyl)-3-oxo-3,4-dihydropyrido[2,3-b]pyrazine (1.22 g) and 2-methylimidazole (1.35 g) in N,N-dimethylformamide (10 ml) was stirred at 80° C. for 1 hour. Then the mixture was poured into aqueous sodium bicarbonate and extracted with ethyl acetate twice. The combined organic solution was washed with aqueous sodium bicarbonate and brine, dried over magnesium sulfate and concentrated. The residue was chromatographed on silica gel column (5% methanol in chloroform) to give 4-(3-methoxycarbonylphenyl)-2-[(2-methylimidazol-1-yl)methyl]-3-oxo-3,4-dihydropyrido[2,3-b]pyrazine (15 4 mg).

reactant | 2-bromomethyl-4-(3-methoxycarbonylphenyl)-3-oxo-3,4-dihydropyrido[2,3-b]pyrazine | 1.22 g | BrCC1=NC2=C(N(C1=O)C1=CC(=CC=C1)C(=O)OC)N=CC=C2 | C16H12BrN3O3
reactant | 2-methylimidazole | 1.35 g | CC=1NC=CN1 | C4H6N2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 4-(3-methoxycarbonylphenyl)-2-[(2-methylimidazol-1-yl)methyl]-3-oxo-3,4-dihydropyrido[2,3-b]pyrazine | 4 mg | COC(=O)C=1C=C(C=CC1)N1C2=C(N=C(C1=O)CN1C(=NC=C1)C)C=CC=N2 | C20H17N5O3
